US09062048B2
Step E: 5-(1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidin-2-one
To a mixture of 5-(1,4-dioxaspiro[4.5]decan-8-yl)-1H-pyrrol-2(5H)-one (330 mg, 1.48 mmol), prepared in the previous step, and Palladium on Carbon (299 mg, 0.14 mmol, 5%, “Degussa, wet”) was carefully added methanol (30 mL). The reaction flask was evacuated, backfilled with hydrogen via balloon and stirred at room temperature overnight. The catalyst was removed by filtration and the filtrate concentrated in vacuo to afford the product.

reactant | 5-(1,4-dioxaspiro[4.5]decan-8-yl)-1H-pyrrol-2(5H)-one | 1.48 mmol, 330 mg | O1CCOC12CCC(CC2)C2C=CC(N2)=O | C12H17NO3
catalyst | Palladium on Carbon | 0.14 mmol, 299 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 5-(1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidin-2-one | O1CCOC12CCC(CC2)C2CCC(N2)=O | C12H19NO3
